US07728025B2
(Step 6) Production of 3-(1-acetyl-pyrrolidin-2-yl)-4-benzyloxybenzoic acid
23 ml of aqueous 4 N sodium hydroxide solution was added to an ethanol (200 ml) solution of 18.7 g of ethyl 3-(1-acetyl-pyrrolidin-2-yl)-4-benzyloxybenzoate, and the reaction liquid was stirred overnight at room temperature. 15 ml of aqueous 4 N sodium hydroxide solution was added to the reaction liquid, and the reaction liquid was stirred for 7 hours. The reaction solvent was evaporated away under reduced pressure, and the resulting residue was diluted with water, and washed with ether. The aqueous layer was acidified with 6 N hydrochloric acid added thereto, then extracted with chloroform, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure to obtain the entitled compound as a white solid.

reactant | sodium hydroxide | 4 N | [OH-].[Na+]
reactant | ethyl 3-(1-acetyl-pyrrolidin-2-yl)-4-benzyloxybenzoate | 18.7 g | C(C)(=O)N1C(CCC1)C=1C=C(C(=O)OCC)C=CC1OCC1=CC=CC=C1 | C22H25NO4
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-(1-acetyl-pyrrolidin-2-yl)-4-benzyloxybenzoic acid | C(C)(=O)N1C(CCC1)C=1C=C(C(=O)O)C=CC1OCC1=CC=CC=C1 | C20H21NO4
